US07781436B2
2-{3-[4-(2,6-Dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-(4-methyl-piperazin-1-yl)-ethanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone | ClCC(=O)N1CCN(CC1)C | C7H13ClN2O
product | 2-{3-[4-(2,6-Dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-(4-methyl-piperazin-1-yl)-ethanone | COC1=C(C(=CC=C1)OC)C1CCN(CC1)C(=O)C1=CN(C2=CC=CC=C12)CC(=O)N1CCN(CC1)C | C29H36N4O4
